US03976633
A solution of 3.5 g. (0.05 mol.) of dimethylketene in ethyl acetate is added dropwise under a nitrogen atmosphere to a cooled (0°) solution of 18.6 g. (0.05 mol.) of 1,3-bis(2-cyano-5-trifluoromethylphenyl)triazene in ether. The reaction mixture is stirred for 12 hours then concentrated at reduced pressure. Crystallization of the residue from ether gives 3-isobutyryl-1,3-bis(2-cyano-5-trifluoromethylphenyl)triazene.

reactant | dimethylketene | 0.05 mol | CC(=C=O)C | C4H6O
reactant | 1,3-bis(2-cyano-5-trifluoromethylphenyl)triazene | 0.05 mol | C(#N)C1=C(C=C(C=C1)C(F)(F)F)N=NNC1=C(C=CC(=C1)C(F)(F)F)C#N | C16H7F6N5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 3-isobutyryl-1,3-bis(2-cyano-5-trifluoromethylphenyl)triazene | C(C(C)C)(=O)N(N=NC1=C(C=CC(=C1)C(F)(F)F)C#N)C1=C(C=CC(=C1)C(F)(F)F)C#N | C20H13F6N5O
